US07737166B2
Ethyl 2-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-1,3-thiazole-4-carboxylate (I-197)
Ethyl 3-bromopyruvate (72.2 μl, 0.518 mmol) was added to a toluene (10 ml) solution of 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carbothioamide (I-196-1) (124 mg, 0.398 mmol), followed by heating under reflux in an oil bath at 125° C. for 2 hours. After cooling to room temperature, p-toluenesulfonic acid monohydrate (15.2 mg, 0.080 mmol) was added to the reaction liquid, followed by heating under reflux in an oil bath at 125° C. for 15 hours. After cooling to room temperature, an aqueous saturated sodium hydrogencarbonate solution (50 ml) and water (50 ml) were added, followed by extraction with ethyl acetate (50 ml×2). The organic layer was washed with an aqueous saturated sodium hydrogencarbonate solution (50 ml) and saturated brine (50 ml), and dried over anhydrous sodium sulfate. After concentration, the resulting residue was purified by silica gel column chromatography (eluent, chloroform:ethyl acetate=100:1→25:1) to obtain the entitled compound (148 mg, 91.2%) as a pale yellow solid.

reactant | Ethyl 3-bromopyruvate | 0.518 mmol, 72.2 μl | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carbothioamide | 0.398 mmol, 124 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(N)=S)F)C2=CC=CC=C2)C | C16H10FN3OS
reactant | p-toluenesulfonic acid monohydrate | 0.080 mmol, 15.2 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | water | 50 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-1,3-thiazole-4-carboxylate | 148 mg, 91.2% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C=2SC=C(N2)C(=O)OCC)F)C2=CC=CC=C2)C | C21H14FN3O3S
